US07812026B2
tert-butyl 2-(dimethylamino)-1-phenyl-4-[(N-phenylglycyl)amino]-1H-imidazole-5-carboxylate
The 1-phenyl-1H-imidazole-5-carboxylate (1 equivalent (eq), 0.33 mmol) and triethylamine (2 eq, 0.66 mmol) were dissolved in DCM (5 mL) and bromoacetyl acetate (1.5 eq, 0.49 mmol) was added dropwise. The solution was stirred for 3 hours at room temperature. Then, the reaction was quenched with K2CO3 (aqueous (aq)) (1 M, 25 mL) and extracted with iPr2O. The organic layers were pooled, dried over Mg2SO4, filtered and evaporated. The residue was used directly without any further purification in the next step. The tert-butyl 4-[(bromoacetyl)amino]-2-(dimethylamino)-1-phenyl-1H-imidazole-5-carboxylate (1 eq) and aniline (2.5 eq) were dissolved in DMF (5 mL) and heated to 100° C. for 1 hour. The solution was evaporated and K2CO3(aq) (1 M, 25 mL) was added. The reaction mixture was subsequently extracted several times with i-Pr2O. The organic phases were pooled, dried over MgSO4, filtered and evaporated. Eventually the residue was purified by preparatory HPLC, which afforded the desired product.

reactant | 1-phenyl-1H-imidazole-5-carboxylate | 0.33 mmol, 1 equivalent | C1(=CC=CC=C1)N1C=NC=C1C(=O)[O-]
reactant | triethylamine | 0.66 mmol, 2 eq | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl acetate | 0.49 mmol, 1.5 eq | C(C)(=O)OC(CBr)=O | C4H5BrO3
reactant | tert-butyl 4-[(bromoacetyl)amino]-2-(dimethylamino)-1-phenyl-1H-imidazole-5-carboxylate | 1 eq | BrCC(=O)NC=1N=C(N(C1C(=O)OC(C)(C)C)C1=CC=CC=C1)N(C)C | C18H23BrN4O3
reactant | aniline | 2.5 eq | NC1=CC=CC=C1 | C6H7N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(dimethylamino)-1-phenyl-4-[(N-phenylglycyl)amino]-1H-imidazole-5-carboxylate | Yield: 18.5% | CN(C=1N(C(=C(N1)NC(CNC1=CC=CC=C1)=O)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C24H29N5O3
